US08349824B2
A mixture of 1-methyl-5-(2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (150 mg, 335 μmol), (1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptane hydrochloride (136 mg, 1.00 mmol), propylphosphonic anhydride (50% in ethyl acetate, 493 μl, 837 μmol) and N,N-diisopropylethylamine (398 μl, 2.34 mmol) in tetrahydrofuran (7.00 ml) was refluxed for 2.5 days (weekend). The solvent was evaporated, the residue was triturated with sodium hydrogencarbonate solution. The precipitated solid was filtered off, washed with water and dried affording 2-methyl-4-((1R,4R)-2-oxa-5-aza-bicyclo[2.2.1]heptane-5-carbonyl)-2H-pyrazole-3-carboxylic acid (2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (79 mg, 53.1%) as a white solid. mp: 272-273° C., MS: m/z=445.1 (M+H+)

reactant | 1-methyl-5-(2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 335 μmol, 150 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C=2C=NC=CC2)=O)C(=O)O | C17H13N7O3
reactant | (1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptane hydrochloride | 1.00 mmol, 136 mg | Cl.[C@@H]12OC[C@@H](NC1)C2
reactant | propylphosphonic anhydride | 837 μmol, 493 μl | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 2.34 mmol, 398 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 7.00 ml | O1CCCC1 | C4H8O
product | 2-methyl-4-((1R,4R)-2-oxa-5-aza-bicyclo[2.2.1]heptane-5-carbonyl)-2H-pyrazole-3-carboxylic acid (2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 79 mg, 53.1% | N1=CC(=CC=C1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2[C@H]3CO[C@@H](C2)C3)C)=N1 | C22H20N8O3
